US08044213B2
A mixture of 0.200 g (0.43 mmole) of 4-(3-chloro-phenyl)-2-[5(2,2-dimethoxy-ethyl)-2-nitro-phenylamino]-thiazole-5-carboxylic acid amide (VI.9a) and 3 mL of 96% formic acid was stirred at room temperature for 1 hour. The solution was poured into water and the resulting precipitate was collected by filtration, washed with water and air-dried to give 0.135 g of 4-(3-chloro-phenyl)-2-[2-nitro-5-(2-oxo-ethyl)-phenylamino]-thiazole-5-carboxylic acid amide (VI.9b) as an orange solid. A mixture of 0.135 g of 4-(3-chloro-phenyl)-2-[2-nitro-5-(2-oxo-ethyl)-phenylamino]-thiazole-5-carboxylic acid amide (VI.9b), 0.10 mL of N-methylpiperazine, 0.10 mL of glacial acetic acid, 0.50 g of sodium triacetoxyborohydride and 10 mL of dichloromethane was stirred at room temperature for 16 hours. To the mixture was carefully added 1 mL of 1M hydrochloric acid and stirring was continued at room temperature for 30 minutes. The mixture was partitioned between 30 mL of dichloromethane and 30 mL of saturated aqueous sodium bicarbonate solution. The organic layer was washed once with 30 mL of water, then 30 mL of brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with methanol-dichloromethane (gradient 15:85-20:80) to give an orange foam. Trituration with diethyl ether gave 0.100 g of 4-(3-chlorophenyl)-2-{5-[2-(4-methyl-piperazin-1-yl)-ethyl]-2-nitro-phenylamino}-thiazole-5-carboxylic acid amide (VI.9c) as an orange solid.

reactant | 4-(3-chloro-phenyl)-2-[5(2,2-dimethoxy-ethyl)-2-nitro-phenylamino]-thiazole-5-carboxylic acid amide | 0.43 mmole, 0.200 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)NC1=C(C=CC(=C1)CC(OC)OC)[N+](=O)[O-] | C20H19ClN4O5S
reactant | formic acid | 3 mL | C(=O)O | CH2O2
solvent | water | O | H2O
product | 4-(3-chloro-phenyl)-2-[2-nitro-5-(2-oxo-ethyl)-phenylamino]-thiazole-5-carboxylic acid amide | 0.135 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)NC1=C(C=CC(=C1)CC=O)[N+](=O)[O-] | C18H13ClN4O4S
